US04486586
Diphenylmethyl 7-[(Z)-2-(1-t-Butoxycarbonylcyclobut-1-oxyimino)-2-(2-tritylaminothiazol-4-yl)acetamido]-3-triphenylphosphoniomethyl-3-cephem-4-carboxylate Iodide (VIII-5')
A mixture of diphenylmethyl 7-[(Z)-2-(1-t-butoxycarbonylcyclobut-1-oxyimino)-2-(2-tritylaminothiazol-4-yl)acetamido]-3-iodomethyl-3-cephem-4-carboxylate (VII-5', 6.4 g, 6 mmoles) and triphenylphosphine (2.4 g, 9 mmoles) in benzene (120 ml) was stirred at room temperature for 2 hours and diluted with n-hexane (ca. 500 ml). The resulting precipitate was collected by filtration to afford 7.5 g (94%) of the title compound VIII-B 5'.

reactant | diphenylmethyl 7-[(Z)-2-(1-t-butoxycarbonylcyclobut-1-oxyimino)-2-(2-tritylaminothiazol-4-yl)acetamido]-3-iodomethyl-3-cephem-4-carboxylate | C(C)(C)(C)OC(=O)C1(CCC1)O\N=C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CI)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C54H50IN5O7S2
reactant | triphenylphosphine | 9 mmoles, 2.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | benzene | 120 ml | C1=CC=CC=C1 | C6H6
solvent | n-hexane | ca. 500 ml | CCCCCC | C6H14
product | Diphenylmethyl 7-[(Z)-2-(1-t-Butoxycarbonylcyclobut-1-oxyimino)-2-(2-tritylaminothiazol-4-yl)acetamido]-3-triphenylphosphoniomethyl-3-cephem-4-carboxylate Iodide | 7.5 g, 94% | [I-].C(C)(C)(C)OC(=O)C1(CCC1)O\N=C(/C(=O)NC1[C@@H]2N(C(=C(CS2)C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C72H64N5O7PS2.HI/c1-70(2,3)83-68(81)71(45-28-46-71)84-76-60(59-49-87-69(73-59)75-72(53-33-16-6-17-34-53,54-35-18-7-19-36-54)55-37-20-8-21-38-55)64(78)74-61-65(79)77-62(67(80)82-63(50-29-12-4-13-30-50)51-31-14-5-15-32-51)52(48-86-66(61)77)47-85(56-39-22-9-23-40-56,57-41-24-10-25-42-57)58-43-26-11-27-44-58;/h4-27,29-44,49,61,63,66H,28,45-48H2,1-3H3,(H-,73,74,75,78);1H/b76-60-;/t61?,66-;/m1./s1
